US05958942
ii) Synthesis of 4,5-dihydro-4-[2-[4-(trifluoromethane sulfonamido)phenyl]ethan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride
To a suspension of 59 mg (0.13 mmol) of 4,5-dihydro-4-[2-[4-(trifluoromethanesulfonamido)phenyl]ethan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione in 5 ml of methanol was added 0.05 ml of conc. hydrochloric acid. The solvent was distilled off to afford 64 mg of the desired compound (100%, a pale yellow solid).

reactant | 4,5-dihydro-4-[2-[4-(trifluoromethanesulfonamido)phenyl]ethan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 0.13 mmol, 59 mg | FC(S(=O)(=O)NC1=CC=C(C=C1)CCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C18H13F3N4O4S
reactant | hydrochloric acid | 0.05 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 4,5-dihydro-4-[2-[4-(trifluoromethane sulfonamido)phenyl]ethan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride | 64 mg | Cl.FC(S(=O)(=O)NC1=CC=C(C=C1)CCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | InChI=1S/C18H13F3N4O4S.ClH/c19-18(20,21)30(28,29)23-12-6-4-11(5-7-12)8-9-24-16(26)13-2-1-3-15-22-10-14(17(24)27)25(13)15;/h1-7,10,23H,8-9H2;1H
